US04150139
To 1.15 g of 3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine in 20 ml of ethanol was added 6 ml of Raney nickel (wet) and the mixture was refluxed for 15 minutes under stirring. The Raney nickel was filtered off and the solvent was removed from the filtrate. To the residue was added water. By this procedure was obtained 11H-s-triazolo[3,4-b][3]benzazepine as crystals. Recrystallization from ethanol-n-hexane yielded colorless needles, m.p. 157°-158° C. The infrared absorption spectrum was identical with the spectrum of the same compound obtained by reacting 2-hydrazino-3-benzazepine with ortho-formic acid ester.

reactant | 3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine | 1.15 g | CSC1=NN=C2CC3=C(C=CN21)C=CC=C3 | C12H11N3S
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Raney nickel | 6 ml | [Ni] | Ni
product | 11H-s-triazolo[3,4-b][3]benzazepine | N=1N=CN2C1CC1=C(C=C2)C=CC=C1 | C11H9N3
